US07348348B2
(5Z)-5-[4-(4-fluorophenoxy)benzylidene]-3-(2-hydroxyethyl)-1,3-thiazolidine-2,4-dione
To a solution of 5-(4-(4-fluorophenoxy)benzylidene)thiazolidine-2,4-dione (0.05 g) in a 1:1 mixture of ThF and DMF (1.6 mL) was added anhydrous K2CO3 (0.022 g). To the well stirred homogeneous mixture was added 2-chloro-ethanol (0.04 g) and stirred ovemight at room temperature. The reaction was diluted with ice-water, extracted with EtOAc, and the organic layer was washed with water, dried (Na2SO4) and concentrated in vacuo to give the titled compound.

reactant | 5-(4-(4-fluorophenoxy)benzylidene)thiazolidine-2,4-dione | 0.05 g | FC1=CC=C(OC2=CC=C(C=C3C(NC(S3)=O)=O)C=C2)C=C1 | C16H10FNO3S
reactant | K2CO3 | 0.022 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro-ethanol | 0.04 g | ClCCO | C2H5ClO
solvent | DMF | 1.6 mL | CN(C)C=O | C3H7NO
product | (5Z)-5-[4-(4-fluorophenoxy)benzylidene]-3-(2-hydroxyethyl)-1,3-thiazolidine-2,4-dione | FC1=CC=C(OC2=CC=C(\C=C/3\C(N(C(S3)=O)CCO)=O)C=C2)C=C1 | C18H14FNO4S
